US06509328B1
[3-(3-Oxo-3-thiophen-3-yl-propionylamino)-biphenyl-4-yl]-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G9) (144 mg, 0.51 mmol) and 3-oxo-3-thiophen-3-yl-propionic acid ethyl ester (FR 7191887) (151 mg, 0.76 mmol) according to the general procedure K. Obtained as a yellow foam (181 mg).

reactant | (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.51 mmol, 144 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)N)=O | C17H20N2O2
reactant | 3-oxo-3-thiophen-3-yl-propionic acid ethyl ester | 0.76 mmol, 151 mg | C(C)OC(CC(C1=CSC=C1)=O)=O | C9H10O3S
product | [3-(3-Oxo-3-thiophen-3-yl-propionylamino)-biphenyl-4-yl]-carbamic Acid tert.-Butyl Ester | 181 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(CC(C1=CSC=C1)=O)=O)=O | C24H24N2O4S
